US08877744B2
A solution of (R)-6,6-difluoro-5-(2-fluoro-5-(pyrimidin-5-yl)phenyl)-5,7,7-trimethyl-1,4-oxazepane-3-thione (239 mg, 627 μmol) in methanol (7.2 ml), was treated with ammonia (7 M in methanol, 5.37 ml) and tert-butyl hydroperoxide (70% in water, 517 μl). The mixture was stirred at room temperature for 16 hours. For the workup, the reaction mixture was extracted with water and dichloromethane. The organic layer was washed with water and brine, the aqueous layers were reextracted with dichloromethane. The combined organic layers were dried over sodium sulphate, filtered and evaporated to give brown oil. The residue was purified by chromatography on an amino-silica phase using dichloromethane as the eluent. The (R)-6,6-difluoro-5-(2-fluoro-5-(pyrimidin-5-yl)phenyl)-5,7,7-trimethyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine (94 mg, 41% yield) was obtained as a white foam. MS (ISP): m/z=365.2 [M+H]+.

reactant | (R)-6,6-difluoro-5-(2-fluoro-5-(pyrimidin-5-yl)phenyl)-5,7,7-trimethyl-1,4-oxazepane-3-thione | 627 μmol, 239 mg | FC1([C@@](NC(COC1(C)C)=S)(C)C1=C(C=CC(=C1)C=1C=NC=NC1)F)F | C18H18F3N3OS
reactant | ammonia | 7 M, 5.37 ml | N | H3N
reactant | tert-butyl hydroperoxide | 517 μl | C(C)(C)(C)OO | C4H10O2
solvent | methanol | 7.2 ml | CO | CH4O
product | (R)-6,6-difluoro-5-(2-fluoro-5-(pyrimidin-5-yl)phenyl)-5,7,7-trimethyl-2,5,6,7-tetrahydro-1,4-oxazepin-3-amine | 94 mg, 41% yield | FC1([C@@](N=C(COC1(C)C)N)(C)C1=C(C=CC(=C1)C=1C=NC=NC1)F)F | C18H19F3N4O
